US08258306B2
A mixture of 1-benzosuberone (0.803 ml, 5.01 mmol), (R)-2-methylpiperazine (1.505 g, 15 mmol) in titanium (4+) isopropoxide (4.399 ml, 15 mmol) was heated at 80° C. overnight. After cooling to RT, the reaction mixture was diluted with 30 mL of MeOH and sodium borohydride (0.529 ml, 15 mmol) was slowly added. After stirring at rt for 20 min, the solvent was evaporated to dryness. The residue was redissolved in 50 mL of EtOAc and to this solution was added 10 g of NaHCO3 and 0.5 mL of water to generate a white slurry. After stirring at rt for 2 h, the mixture was filtered with the help of excess EtOAc and the filtrate was evaporated to dryness. Column chromatography (SiO2, DCM/MeOH=100:5 to 100:10 to 100:15 to 100:20) gave (3R)-3-methyl-1-(6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-yl)piperazine (860 mg, 70% yield) as an off white gum.

reactant | 1-benzosuberone | 5.01 mmol, 0.803 ml | C1CCC(=O)C2=CC=CC=C2C1 | C11H12O
reactant | (R)-2-methylpiperazine | 15 mmol, 1.505 g | C[C@H]1NCCNC1 | C5H12N2
reactant | sodium borohydride | 15 mmol, 0.529 ml | [BH4-].[Na+]
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | MeOH | 30 mL | CO | CH4O
catalyst | titanium (4+) isopropoxide | 15 mmol, 4.399 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (3R)-3-methyl-1-(6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-yl)piperazine | 860 mg, 70% yield | C[C@@H]1CN(CCN1)C1CCCCC2=C1C=CC=C2 | C16H24N2
